US07417060B2
To a solution of methyl 4′-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethoxy]-3-(isopropylthio)-4-biphenylcarboxylate (110 mg) in methanol (1.65 ml) was added sodium hydroxide aqueous solution (1N 1.11 ml) and stirred at room temperature overnight. To the mixture was added hydrochloric acid aqueous solution (1N, 1.22 ml) and concentrated in vacuo. The residue was solved with methanol, added hydrogen chloride 1,4-dioxane solution (4M), concentrated in vacuo and dried to give 4′-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]-amino]ethoxy]-3-(isopropylthio)-4-biphenylcarboxylic acid hydrochloride (97 mg).

reactant | methyl 4′-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]amino]ethoxy]-3-(isopropylthio)-4-biphenylcarboxylate | 110 mg | O[C@@H]([C@H](C)NCCOC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)OC)SC(C)C)C1=CC=C(C=C1)O | C28H33NO5S
reactant | sodium hydroxide | 1N, 1.11 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1N, 1.22 ml | Cl | ClH
solvent | methanol | 1.65 ml | CO | CH4O
product | 4′-[2-[[(1S,2R)-2-hydroxy-2-(4-hydroxyphenyl)-1-methylethyl]-amino]ethoxy]-3-(isopropylthio)-4-biphenylcarboxylic acid hydrochloride | 97 mg | Cl.O[C@@H]([C@H](C)NCCOC1=CC=C(C=C1)C1=CC(=C(C=C1)C(=O)O)SC(C)C)C1=CC=C(C=C1)O | InChI=1S/C27H31NO5S.ClH/c1-17(2)34-25-16-21(8-13-24(25)27(31)32)19-6-11-23(12-7-19)33-15-14-28-18(3)26(30)20-4-9-22(29)10-5-20;/h4-13,16-18,26,28-30H,14-15H2,1-3H3,(H,31,32);1H/t18-,26-;/m0./s1
